Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
difficulty swallowing, abnormal facial movements, instability 
when walking
 
Major Surgical or Invasive Procedure:
Intubation and then Extubation
Lumbar Puncture
PEG tube placement

 
History of Present Illness:
HPI: The patient is a ___ right-handed woman with a 
history of COPD, systolic CHF, and hypothyroidism who presents 
with recurrence of dysphagia, personality changes, and gait 
instability. The patient has an extensive history of neurologic 
symptoms according to medical records and history provided by 
the patient’s daughter, ___. She was in good health until 
early ___, when her daughters noticed the onset of depression, 
decreased productivity and motivation at work, memory loss, and 
poor hygiene. Her SIGECAPS was positive for decreased appetite, 
energy, concentration, and interest, but no suicidality. She 
noted some word findings difficulties, which she would get past 
by skipping over specific thoughts or using synonyms.

These symptoms progressed for approximately 12 months until 
___, when she also developed dizziness with 
transient vision loss. She described episodes in which her field 
of vision blackens suddenly. She did not have other presyncopal 
symptoms such as vertigo, occurrence with standing, weakness, or 
palpitations. She denied loss of consciousness, but her family 
notes that it resulted in her falling ___ times per month, and 
she had fallen 8 times over the previous 5-month period. At the 
same time, she noted a new headache. She has had lifetime 
migraines that are bitemporal in distribution, but this headache 
was different. It began over the occiput and radiated 
retro-orbitally with a very intense, piercing quality, lasting 
for ___ minutes and occurring ___ times per day. They seem to be 
triggered by Valsalva maneuvers (coughing ___ COPD, sneezing) 
and the pain was so distracting that they resulted in 5 minor 
car accidents through ___.

On general review of systems at that time, she noted an 
intentional 50lb weight loss and persistent non-productive cough 
due to her tobacco use history. Because of these new symptoms 
and progressive symptoms, she was admitted to ___. Review of 
brain MRI at that time revealed a slightly enlarged cavernous 
sinus. Follow-up head CT demonstrated an adenoid mass. A biopsy 
of the adenoid mass was chosen over a biopsy of the cavernous 
sinus enlargement, and the biopsy revealed hyperplasia. Because 
her neurological exam was normal, LP only demonstrated mild 
lymphocytic pleocytosis, and bone scans did not reveal any 
primary malignancy or metastasis, she was diagnosed with 
depression and migraine and subsequently discharged.

She was again evaluated as an outpatient in ___ by 
neuro-oncologist Dr. ___ similar symptoms. She was 
noted to have hyperreflexic extremities (R>L) in the setting of 
persistent and progressive symptoms and, therefore, admitted to 
___ in ___. Her CSF continued to demonstrate lymphocytic 
pleocytosis (41 WBC, 57% polys, 28% lymphocytes, 9% monocytes, 
4% eosinophils, 2% basophils), mildly elevated protein of 97 and 
normal glucose of 62. Repeat MRI brain showed dural enhancement 
and head CT demonstrated superior sagittal sinus thrombosis and 
calvarial Paget’s disease. While she was started on warfarin for 
the superior sagittal sinus thrombosis, the findings on CT did 
not explain her symptoms. With diffuse dural enhancement on MRI, 
an extensive workup of possible chronic meningoencephalitis was 
undertaken, ultimately leading to brain biopsy. The following 
etiologies were considered and their investigatory results are 
provided:

1)       Infectious
a.       TB meningitis: The patient noted a remote TB exposure, 
exhibited a chronic cough, CXR showed apical pleural thickening, 
and chest CT identified a 7mm nodule in the right lower lobe. 
Though, she had a negative PPD on admission in ___, dural 
biopsy AFB smear and culture were negative, and mycobacterial 
isolates were negative.
b.       ___ disease: CSF PCR negative, dural biopsy PCR 
negative.
c.        Creutzfeld-Jakob disease: repeat CSF ___ protein 
negative (Prion Surveillance Lab in ___, spongiform 
changes were seen on the pathology in the gray but not white 
matter. Immunohistochemical staining revealed no PrPSc. Though, 
the report notes that ___ of CJD can be missed by this IHC 
test and a frozen specimen for immunoblot testing would be 
preferred if a repeat biopsy is done.
d.       CNS fungal infection: dural biopsy and CSF fungal 
cultures negative, serum and CSF cryptococcal antigen negative, 
urine histoplasma antigen negative.
e.         CNS lyme: serum test negative, but CSF antibody and 
CSF PCR not done.
f.        Neurosyphilis: serum RPR negative, CSF VDRL negative.
g.        Viral: HIV serology negative, CMV IgG positive but 
antigen negative, CSF HSV PCR negative, CSF VZV PCR negative, 
EBV serology not completed.
h.       Parasitic and other: Toxoplasmosis IgG negative, CSF 
Bartonella negative, CSF gram stain and culture negative.
2)       Malignancy
a.       CNS lymphoma and leukemic meningitis: Peripheral blood 
and CSF did not demonstrate monoclonal leukemia / lymphoma by 
flow cytometry. CSF cytology shows no malignant cells. SPEP 
normal. IgH rearrangement studies show no monoclonal 
populations.
b.       CNS metastasis: Pan CT did not reveal and primary 
malignancy, PET scan negative even in cavernous sinus mass and 
lung nodule.
c.        Paraneoplastic syndrome: anti-Ma2, ___ (ANNA1), 
anti-Yo (PCCA), anti-Ri (ANNA2) all negative.
3)       Inflammatory/Rheumatoid
a.       Sarcoidosis: CT chest showed no mediastinal 
lymphadenopathy, ACE of 30 (normal), and no hypercalcemia.
b.       SLE: ___ positive (at 1:40 and 1:160 dilutions) with 
speckled pattern, but dsDNA, anti-Ro, anti-La, anti-RNP, and 
anti-Sm all negative.
c.        Markers of inflammation: ESR 22, CRP 1.5.
4)       Dementias
a.       Alzheimer’s: Tau/Ab42 was not sent (sample rejected 
because not in polypropylene tube).

After the extensive workup of her symptoms in ___, no 
diagnosis could be confirmed. After discharge, her symptoms 
continued to progress, as her daughters noted an increasing 
disinhibition, slight decline in memory, worsening dysphagia 
(drooling, choking on food), and increased difficulty with 
balance. Falls over three consecutive days prompted another 
admission to ___ in ___. At that time, her 
neurological exam was found to be largely normal, notable only 
for a child-like affect and inability to tandem more than 3 
steps before losing her balance. Her CSF was found to be 
completely normal, with no evidence of chronic meningeal 
encephalitis or lymphocytic pleocytosis (RBC 13, WBC 2, glucose 
67, total protein 45, IgG 2.8) and CSF gram stain, culture, and 
fungal cultures all showed no organisms. With the previous 
extensive workup, other more rare etiologies were examined 
during the ___ hospitalization. These included:
1)       Cavernous sinus mass: MRA, MRV, MRS ___ evaluate the 
evolution of the cavernous sinus mass and dural enhancement for 
their possible contribution to the patient’s worsening 
disequilibrium and cognitive decline. The studies revealed a 
stable, bilateral cavernous sinus enhancement with mass effect 
(likely reflecting a Schwannoma or meningioma), thickened 
calvarium consistent with Paget’s disease, and slight 
progression of the superior sagittal sinus slow flow or 
thrombosis. To prevent any further progression but also taking 
into account her fall history, she was started on aspirin 
anticoagulation as opposed to warfarin. However, all of these 
findings were deemed incidental and unlikely to cause the 
patient’s symptoms.
2)       Brain hypometabolism: A comprehensive neuropsychiatric 
evaluation was performed, revealing some evidence of mild 
frontal lobe impairment (deficient word list generation). 
Because of the potential to worsen baseline symptoms, her 
amitriptyline (migraine prophylaxis) was discontinued. However, 
brain PET scan to evaluate for frontotemporal dementia did not 
show any frontal lobe defects and there was nondiagnostic 
bilateral temporal lobe metabolic activity.
3)       Hypothyroidism: Thyroid screening panel revealed normal 
TSH (3.25) and free T4. ___ antibody level was elevated at 
70.0.
4)       Rare progressive dementias:
a.       Pernicious anemia: serum B12 normal (527)
b.       Anti-phospholipid syndrome: anti-cardiolipin and lupus 
anticoagulant assays negative
5)       Myeloma of B cell lymphoma with neoplastic meningitis: 
SPEP and UPEP normal
6)       Other rheumatologic causes:
a.       Vasculitis: ANCA panel negative.
b.       RF negative
7)       Hepatitis B and C: Ammonia was slightly elevated to 63 
on admission, but there was no asterixis and serologies for HBV 
and HCV were negative.
8)       Neurocysticercosis: serum test negative.
Her hospital course was uncomplicated with no progression or 
changes in her exam during the admission. However, a definitive 
diagnosis was not reached. Given her personality changes and 
symptoms of frontal lobe impairment, the most likely etiology 
was deemed early frontotemporal dementia (in which, signs may 
not be seen on PET).

Seen in follow-up on ___ with Dr. ___ presented 
with residual headaches, weakness, dizziness, difficulty 
swallowing, and non-productive cough but no fevers, chills, or 
night sweats. She was noted to have poor grooming, lack of 
affect, difficulties with naming and calculation. In early 
___, she was admitted again to ___ for 
dehydration. Her problems with swallowing were progressing. 
There is record of an episode when she could not swallow water 
while on a car ride home, and she slumped over in the front seat 
unable to talk or open her eyes. A barium swallow during the 
hospitalization revealed evidence of aspiration, a dysmotile 
esophagus, and GERD. She was given a pureed diet and thickened 
fluids as well as meclizine. Her swallowing improved over 11 
days and she was discharged, but a diagnosis was not reached. 
Dr. ___ the patient in follow-up on ___. He 
noted that her condition seemed improved and she was without 
confusion. However, at this time it seems as though the patient 
decided on an abrupt move to ___ and follow-up was 
fragmented.

The daughter relates that the patient’s symptoms continued to 
progress over the next ___ years. Around ___, she was given 
diagnosis of PSP. After the diagnosis of PSP, she was not 
treated due to the progressive nature of the condition. Per 
record of her neurologist Dr. ___ in ___ on 
___, the patient was experiencing gait difficulties, 
using a cane. She had been started on hyoscyamine in ___ for postural hypotension. She continued to have swallowing 
problems. She was noted to have increased rigidity in the upper 
and lower extremities. The patient also seemed to have 
significant sleep-related problems, going to bed around 10:30pm, 
waking around 11:30am, and napping/dozing ___ hours per day. Her 
exam was notable for hesitant speech, poor conversation 
initiation, MMSE ___, current event inventory ___, slightly 
extended neck posture, eyes deviated downward with limited 
upgaze, intermittent grimacing and stridor, moderate 
bradykinesia and rigidity in the upper and lower extremities, 
slightly diminished dexterity in the fingers, and a gait with 
slightly reduced arm swing on a broad base.

Without treatment, she continued to progress to the degree at 
which she was bedbound, non-responsive, and a PEG tube was 
placed in ___. She was admitted to ___ 
___ (___) in ___ and was transitioned to hospice at 
___. While there, she experienced a fall 
resulting in a hip fracture in ___. A repair was completed 
but, she her hospitalization was complicated by 
hyperbilirubinemia and urosepsis. She was treated with 
antibiotics, of which the daughter can recall vancomycin and 
levofloxacin) at ___. Miraculously, after this hospitalization, 
it seemed as though the patient’s progressive neurologic 
symptoms began to reverse.

The next neurology office visit on record, reported on ___, 
noted that her walking had improved, only with rare use of a 
walker. She appeared to no longer be depressed, though it is 
noted that she cries easily for happy and sad reasons, and her 
orbital headaches were regarded as mild and responsive to 
Tylenol. On exam at that time, she was noted to be much more 
alert, participating actively in conversation, making 
spontaneous comments. Her MMSE was ___ and current event 
inventory was ___. Her cranial nerve exam was normal and she was 
able to walk slowly, on a slightly broad base, with tactile 
assistance. Her daughter notes that she was able to return to 
living independently in her own apartment in ___.

However, in ___, the daughter noticed that her mother 
developed a cough, similar to “aspiration coughs” that the 
daughter had noticed during her mother’s neurologic 
deterioration years earlier. They saw her PCP ___ ___ and 
Ms. ___ was treated with Augmentin for aspiration pneumonia 
and was also given albuterol/flonase and Tessalon perles. The 
Tessalon perles appeared to be making the patient drowsier and 
so the patient was switched to mucinex. Though, the cough 
continued and neurologic symptoms began to return over the next 
___ days. The daughter describes recurrence of drooling, "masked 
facies," frequent clearing of her throat, tics, and dystonic 
movements of the face. On a repeat evaluation by Dr. ___ 
on ___, the patient was terse and unemotional. She had 
limited facial expression and prolonged distortion with 
elongation of the lower face, forced elevation of the eyebrows, 
forehead wrinkling, absent blinking, and persistent drooling. 
Her MMSE was ___ and current event inventory was ___. There 
was some slight lid lag, but her eye movements were observed to 
be normal. She exhibited gait abnormalities with bradykinesia, 
reduced arm swing, and slightly impaired righting responses. Of 
note, the patient was reported to be eating unhealthily in large 
quantities. Dr. ___ set up a referral appointment at 
___ with Dr. ___ on 
___. However, the daughter felt that patient would continue 
to deteriorate. She noticed recurrent signs of poor hygiene at 
her mother’s apartment, with uncleaned dishes and mouse 
droppings on the counter. With the rapidity of returning 
symptoms, she brought the patient to ED.

On neurological review of system, the patient describes 
periorbital headaches as above. She has had bowel and bladder 
incontinence and worsening gait according to her daughter. The 
patient denies loss of vision, blurred vision, diplopia, 
lightheadedness, and vertigo. She denies difficulties 
comprehending speech. She also denies focal weakness, numbness, 
and tingling.

On general review of systems, the patient describes a 
persistent, non-productive cough. Though, she denies shortness 
of breath. She has not had any recent fever or chills, night 
sweats, or recent weight loss/gain. She denies chest pain or 
tightness as well as vomiting, diarrhea, constipation or 
abdominal pain. Neither the patient nor her daughter have noted 
any rashes.

 
Past Medical History:
COPD
systolic CHF
hypothyroidism
?neurologic disorder as described above
hypotension
frontal lobe biopsy in ___ at ___
hemorrhoidectomy
tonsillectomy
tubal ligation
deviated septum correction
PEG placement/removal

 
Social History:
___
Family History:
Father- alcoholic with possible bipolar disorder.
Mother- died of breast cancer at ___ years old.
Sister- hypothyroidism
Daughter- previously diagnosed with carcinoid tumor.
No history of movement disorder or neurologic disorder in the 
family.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 97.8  61  145/82  19  96% RA
General: Awake but keeps eyes closed. Cooperative, NAD.
HEENT: NC/AT, dried skin on forehead 
Neck: Supple without nuchal rigidity
Pulmonary: CTABL
Cardiac: RRR, no murmurs
Abdomen: soft, nontender, nondistended
Extremities: no edema, warm to touch
Skin: no rashes or lesions noted
 
Neurologic:
-Mental Status: Alert, oriented to self and place ___) but thinks it's ___. Able to answer short
questions but does not have a lot of verbal output. Attentive,
able to name ___ forward/backward without difficulty. Language
has intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name pen, nib but
unable to name clip of the pen. She could name
hand/knuckles/thumb/little finger but could not name thumb nail.
Able to read without difficulty.  Speech was dysarthric. Able to
follow both midline and appendicular commands. When testing
apraxia, she used her hand/finger as the tool but could mimic 
the
motions. Could wave bye bye and blow out candle. No evidence of
neglect. 

On observation, patient sat on the stretcher. Her eyes were
closed most of the time but she could open them easily when 
asked
to. Her mouth was pulled back L>R and tongue was sticking out on
its own, midline. She has near continous vocalization and
intermittently she would move her head back and to right and
vocalize/clear throat more loudly. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 2 to 1 mm and brisk. VFF to confrontation. 
III, IV, VI: Good lateral movements, but has minimal upgaze,
which is better when her head is moved instead. Downgaze is ok.
Normal saccades.
V: Facial sensation intact to light touch.
VII: When smiling, no facial droop, facial musculature 
symmetric.
At rest/with her baseline grimace, L corner of mouth is lower.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, increased tone in the legs bilaterally. No
pronator drift bilaterally. No adventitious movements, such as
tremor, noted. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

-Sensory: No deficits to light touch, cold sensation throughout.
Decreased vibratory sense at the toes bilaterally. No extinction
to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   2
R  3  3    3    3   2
Plantar response was mute bilaterally.

-Coordination: No intention tremor, no dysmetria on FNF. When
doing finger tapping, patient's movements become smaller, and 
the
speed is slow. Slow rapid alternating movement but no
dysdiadochokinesia.

-Gait: Gets up from the sitting position easily. Good 
initiation.
Narrow-based, normal stride. Has more difficulty with turning
around, taking multiple steps. Romberg absent.

DISCHARGE PHYSICAL EXAM:

General: Awake, NAD
HEENT: OP clear, MMM
Neck: Supple without nuchal rigidity
Pulmonary: CTABL
Cardiac: RRR, no murmurs
Abdomen: soft, nontender, nondistended
Extremities: no edema, warm to touch
Skin: no rashes or lesions noted
 
Neurologic:
-Mental Status: AAOx3, can ___ backwards, language fluent 
with only subtle dysarthria.  Naming intact, followed all 
commands.  No facial grimaces noted.
-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 2 to 1 mm and brisk. VFF to wiggling fingers. 
III, IV, VI: EOMI (much improved from admission)
V: Facial sensation intact to light touch.
VII: facial muscle symmetrical
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, increased tone in the legs bilaterally. No 
pronator drift bilaterally. No adventitious movements, such as 
tremor, noted. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

-Sensory: No deficits to light touch, cold sensation throughout. 
 Decreased vibratory sense at the toes bilaterally. No 
extinction to DSS.

-DTRs:
  Bi  Tri ___ Pat Ach
L  2+  2    2    2+   2
R  2+  2    2    2+   2
Plantar response was mute bilaterally.

-Coordination: No intention tremor, no dysmetria on FNF.

-Gait: Gets up from the sitting position easily. Good 
initiation. Narrow-based, normal stride, can do tandem walking 
without difficulty.
 
Pertinent Results:
ADMISSION LABS:

145 / 107 / 23
---------------< 127
4.0 / 24 / 0.9

11.0 >------< 256
       44.9

 Neuts-74.4 ___ Monos-5.2 Eos-1.4 Baso-0.6

___ PTT-29.4 ___

ALT-28 AST-24 AlkPhos-109 TotBili-0.5 Albumin-4.4

Calcium-8.7 Phos-3.4 Mg-2.2 Iron-63

calTIBC-342 Ferritn-181* TRF-263

Ammonia-26

TSH-2.1

Stox: negative 

Lactate-1.3

DISCHARGE LABS: 

6.1 >-----< 168
     35.1

141 / 105 / 9
--------------< 119
3.6 / 27 / 0.7

Calcium-8.7 Phos-3.4 Mg-1.8

GQ1B IgG Abs - negative
Acetylcholine Receptor Ab - negative
Ceruloplasmin - WNL
Heavy metal screen - negative
Copper - WNL

CSF (___) 
WBC-1 RBC-0 Polys-0 ___ Macroph-100
TotProt-44 Glucose-71

HSV PCR - negative
___ - negative

 
Brief Hospital Course:
Ms. ___ was admitted on ___ for recurrence of her 
neurological issues that she had had previously (please see HPI 
section for full details).  

# NEURO: when she was admitted she had dysphagia (to the point 
where she completely failed a video swallow study), difficulty 
with convergence, dysarthria and unsteadiness on her feet.  Her 
symptoms mostly localized to the mid-brain.  Therefore, given 
her supposed reversal of her symptoms with antibiotics 
previously our initial concern was for Whipple's Disease.  
Unfortunately because of her severe level of dysphagia and 
inability to manage her secretions, we were unable to obtain an 
MRI on her as she was unable to lay flat.  Therefore, it was 
decided that she would be intubated for the imaging as well as 
for her GI biopsies (see below).  She was given propofol and 
fentanyl and was intubated without issue.  She had her MRI/A 
performed, which only showed her known meningiomas but no acute 
issues to explain her symptoms.  She had her LP performed, 
numerous studies were sent, but all were negative.  
Surprisingly, when she was extubated the next day, she was more 
alert than she had been previously.  She was still having some 
trouble with dysphagia, so she was kept NPO.  She agreed to a 
PEG tube placement, which was placed on ___.  She again had 
propofol and fentanyl for this procedure.  After the procedure, 
she felt like she could better control her secretions.  On ___ 
she passed a repeat swallow evaluation.  In addition, she was 
able to converge her eyes, was only minimally dysarthric and her 
gait had markedly improved.  Therefore, on further reflection we 
felt it was more likely that she had her current improvement and 
her prior improvement related to propofol and fentanyl rather 
than antibiotics as on this admission she did not have 
antibiotics.  On her prior admission she had received her 
antibiotics for a UTI that was a complication of a hip fracture. 
 Therefore she also likely received fentanyl and propofol prior 
to her previous improvement.  She was sent home this time, 
unfortunately without a unifying diagnosis.  Our plan was to 
continue to follow her over time to better elucidate the cause 
of her symptoms. 

# GI: the description of the patient's recovery from previous 
similar symptoms seemed to correlate with her administration of 
antibiotics for treatment of a urinary tract infection.  
Therefore, we decided to arrange for her to have small bowel 
biopsies for our high suspicion of Whipple's Disease.  She 
underwent these on ___.  Unfortunately, they returned negative. 
 She had a PEG placed on ___ but after this she had an 
improvement of her symptoms.  She kept the PEG tube as it was 
unclear when or if her symptoms would recur.

TRANSITIONAL CARE ISSUES:
- she was sent home with ___ services for management of her PEG. 
If there is any issue with her PEG she will need to be seen by 
her PCP.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
2. Tiotropium Bromide 1 CAP IH DAILY 
3. Fludrocortisone Acetate 0.1 mg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. Levothyroxine Sodium 125 mcg PO DAILY 

 
Discharge Medications:
1. Fludrocortisone Acetate 0.1 mg PO DAILY 
2. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. Tiotropium Bromide 1 CAP IH DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Dysphagia
Bulbar Weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 
You were seen in the hospital for trouble swallowing, trouble 
walking and a facial tic.  We did numerous tests, some of which 
are still pending.  You made an amazing recovery after getting 
anesthesia.  We aren't sure the source of your symptoms, but 
wish to continue to follow you over time to help ___ figure 
this out.

We made no changes to your medications.

Please continue to take your medications as previously 
prescribed.

If you experience any of the below listed Danger Signs, please 
contact your doctor or go to the nearest Emergency Room.

It was a pleasure taking care of you on this hospitalization.
 
Followup Instructions:
___